US06613786B2
Step 2: Preparation of (4,5-dichlorothiophen-2-yl)-oxo-acetic acid
A solution of (4,5-dichlorothiophen-2-yl)-oxo-acetic acid ethyl ester (2.53 g, 10.0 mmol) in acetone (15 ml), water (5 ml), and conc. HCl (20 ml) was stirred under reflux for 2 hr. The reaction mixture was then allowed to cool to ambient temperature and was poured into CH2Cl2 and water. The organic layer was dried over Na2SO4 and concentrated under vacuum. Crystallization of the residue from dichloromethane provided pure (4,5-dichlorothiophen-2-yl)-oxo-acetic acid as a yellow solid (557 mg, 25%). MS (M−H)−: 222.78; 1H NMR (300 MHz, DMSO-d6) δ8.06 (s).

reactant | (4,5-dichlorothiophen-2-yl)-oxo-acetic acid ethyl ester | 10.0 mmol, 2.53 g | C(C)OC(C(=O)C=1SC(=C(C1)Cl)Cl)=O | C8H6Cl2O3S
reactant | HCl | 20 ml | Cl | ClH
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | (4,5-dichlorothiophen-2-yl)-oxo-acetic acid | ClC=1C=C(SC1Cl)C(C(=O)O)=O | C6H2Cl2O3S
